US05679694
2-Acetyl-3,4-dimethylpyrrolo[3,2-b]carbazole
To a solution of 2-acetoxymethyl-3,5-diacetyl-4-methylpyrrole (0.200 g) and indole (0.098 g) in dichloroethane (90 cm3) was added Montmorillonite K10 clay (0.30 g). The mixture was stirred and heated at reflux for 80 h. After cooling the clay was removed by filtration and the filtrate concentrated to ca 20 cm3 in vacuo. The crude product was removed by filtration and then chromatographed on silica. Elution with chloroform-methanol (60:1) yielded 0.08 g of the title compound as a yellow solid m.p. 258°-260° C., m/z (EI) 276 (M+) δH ([2H6 ]-DMSO) 2.58 (3H, s, COCH3), 2.88 (3H, s, CH3), 2.92 (3H, s, CH3), 7.05 (1H, m, 8-H), 7.38 (2H, m, 6-H, 7-H), 7.85 (1H, s, 10-H), 8.08(1H, J, 8 Hz, 9-H), 10.6 (1H, s, NH), 11.17 (1H, s, NH). (Found: C, 77.0; H, 5.74; N, 9.76; C18H16N2 O. 0.14 EtOAc requires C, 77.2; H, 5.98; N, 9.70%.)

reactant | 2-acetoxymethyl-3,5-diacetyl-4-methylpyrrole | 0.200 g | C(C)(=O)OCC=1NC(=C(C1C(C)=O)C)C(C)=O | C12H15NO4
reactant | indole | 0.098 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | Montmorillonite K10 | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
solvent | dichloroethane | 90 cm3 | ClC(C)Cl | C2H4Cl2
product | 2-Acetyl-3,4-dimethylpyrrolo[3,2-b]carbazole | 0.08 g | C(C)(=O)C=1C(=C2C(=C3N=C4C=CC=CC4=C3C=C2N1)C)C | C18H14N2O
